US05932674
N-[2,2-Dimethoxyethyl]acetamide
30.6 g (0.3 mol) of acetic anhydride are added to 31.5 g (0.3 mol) of aminoacetaldehyd dimethyl acetal in 50 ml of methylene chloride. When the exothermic reaction is complete, the methylene chloride is removed by distillation, the product is distilled, giving 42 g of colourless product (97% of theory), boiling point 110° C., 0.001 mbar. The product is a single compound according to GC.

reactant | acetic anhydride | 0.3 mol, 30.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | aminoacetaldehyd dimethyl acetal | 0.3 mol, 31.5 g | COC(CN)OC | C4H11NO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[2,2-Dimethoxyethyl]acetamide | 42 g, 97% | COC(CNC(C)=O)OC | C6H13NO3
